US06248736B1
N-(4-chlorobenzyl)-8-fluoro-1-methyl-6-(4-morpholinylmethyl)-4-oxo-1,4-dihydro-3-quinolinecarboxamide
To a solution of N-(4-chlorobenzyl)-8-fluoro-4-hydroxy-6-(4-morpholinylmethyl)-3-quinolinecarboxamide, (can be prepared according to the procedure described in PCT patent application, W099/32450) (147 mg) in anhydrous DMF (3 mL) is added K2CO3 (71.2 mg) followed by CH3I (0.026 mL). The reaction mixture is stirred at room temperature for 30 min, then poured into H2O (40 mL) to precipitate the product. The solid is collected, adsorbed onto silica, and chromatographed (1% MeOH in CH2Cl2 (2L)). Fractions homogenous by TLC are combined and concentrated to afford 55.3 mg of the title compound as a white solid.

reactant | N-(4-chlorobenzyl)-8-fluoro-4-hydroxy-6-(4-morpholinylmethyl)-3-quinolinecarboxamide | ClC1=CC=C(CNC(=O)C=2C=NC3=C(C=C(C=C3C2O)CN2CCOCC2)F)C=C1 | C22H21ClFN3O3
reactant | K2CO3 | 71.2 mg | C(=O)([O-])[O-].[K+].[K+]
reactant | CH3I | 0.026 mL | CI | CH3I
reactant | H2O | 40 mL | O | H2O
solvent | DMF | 3 mL | CN(C)C=O | C3H7NO
product | N-(4-chlorobenzyl)-8-fluoro-1-methyl-6-(4-morpholinylmethyl)-4-oxo-1,4-dihydro-3-quinolinecarboxamide | 55.3 mg | ClC1=CC=C(CNC(=O)C2=CN(C3=C(C=C(C=C3C2=O)CN2CCOCC2)F)C)C=C1 | C23H23ClFN3O3
